US06294668B1
(E)-(6R,7R)-7-(2-Bromo-acetylamino)-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2 carboxylic acid
(E)-(6R,7R)-7-amino-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid (736.0 mg, 1.83 mmol) was suspended in 20 ml dichloromethane and N,O-bis(trimethylsilyl)-trifluoroacetamide (1.94 ml, 7.32 mmol) was added. After 45 min bromoacetyl bromide (167 ml, 1.92 mmol) was added dropwise. After 1 h the reaction mixture was poured on 200 ml diethyl ether containing 160 ml water. After 15 min the solid material was collected by filtration, washed with diethyl ether and dried in high vacuum.

reactant | (E)-(6R,7R)-7-amino-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1.83 mmol, 736.0 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=C(C=C1)O)=O | C19H19N3O5S
reactant | N,O-bis(trimethylsilyl)-trifluoroacetamide | 7.32 mmol, 1.94 ml | C[Si](C)(C)/N=C(\C(F)(F)F)/O[Si](C)(C)C | C8H18F3NOSi2
reactant | bromoacetyl bromide | 1.92 mmol, 167 ml | BrCC(=O)Br | C2H2Br2O
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (E)-(6R,7R)-7-(2-Bromo-acetylamino)-3-[1-(4-hydroxy-benzyl)-2-oxo-pyrrolidin-3-ylidenemethyl]-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2 carboxylic acid | BrCC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1=CC=C(C=C1)O)=O | C21H20BrN3O6S
